US09062033B2
4-(methylsulfonyl)-[1,1′-biphenyl]-2-carboxylic acid (D64)
To a solution of methyl 4-(methylsulfonyl)-[1,1′-biphenyl]-2-carboxylate (330 mg, 1.1 mmol) in methanol (15 ml) NaOH 2N (1.1 ml; 2.3 mmol) was added and the solution left stirring at room temperature for 72 hours.

reactant | methyl 4-(methylsulfonyl)-[1,1′-biphenyl]-2-carboxylate | 1.1 mmol, 330 mg | CS(=O)(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC | C15H14O4S
reactant | methanol | 2.3 mmol, 2N, 15 ml | CO | CH4O
product | 4-(methylsulfonyl)-[1,1′-biphenyl]-2-carboxylic acid | CS(=O)(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C14H12O4S
